US05869501
Ethyl N-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]carbamate (1 g) was dissolved in 10 ml of dimethylformamide, 376 mg of methyl bromoacetate and 339 mg of potassium carbonate were added to the solution, and the mixture was stirred at room temperature for 15 hours. The reaction solution was evaporated, water was added, and the mixture was extracted with chloroform. The extract was dried over anhydrous sodium sulfate and then evaporated. The resulting residue was purified by silica gel column chromatography using hexane:ethyl acetate (8:2) as the eluent to give 1.097 g of methyl N-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]-N-ethoxycarbonylglycinate.

reactant | Ethyl N-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]carbamate | 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(S(=O)(=O)NC(OCC)=O)CC1=CC2=CC(=CC=C2C=C1)C#N | C31H36N4O7S
reactant | methyl bromoacetate | 376 mg | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 339 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl N-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]-N-ethoxycarbonylglycinate | 1.097 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(S(=O)(=O)N(CC(=O)OC)C(=O)OCC)CC1=CC2=CC(=CC=C2C=C1)C#N | C34H40N4O9S
